US06423688B1
N-(Toluene4-sulfonyl)sarcosyl-β-(pyrid-4-yl)-D,L-alanine methyl ester was employed in this reaction and was prepared as follows. Sodium metal (2 eq.) was dissolved in EtOH containing diethyl acetamidomalonate (1 eq.) and 4-picolylchloride hydrochloride (1 eq.). The mixture was heated to reflux for 6 hr, and then cooled and filtered to remove NaCl (washed with EtOH). The solvent was removed in vacuo and the mixture was taken up into saturated aq NaHCO3 and extracted with EtOAc. The solvent was removed and the residue purified by silica gel flash chromatography (95:5 CH2Cl2/MeOH) to give diethyl 2-(4-pyridylmethyl)-2-acetamidomalonate.

reactant | N-(Toluene4-sulfonyl)sarcosyl-β-(pyrid-4-yl)-D,L-alanine methyl ester | COC(C(NC(CN(C)S(=O)(=O)C1=CC=C(C=C1)C)=O)CC1=CC=NC=C1)=O | C19H23N3O5S
reactant | Sodium | 2 eq. | [Na] | Na
reactant | diethyl acetamidomalonate | 1 eq. | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | 4-picolylchloride hydrochloride | 1 eq. | Cl.N1=CC=C(C=C1)CCl
solvent | EtOH | CCO | C2H6O
product | diethyl 2-(4-pyridylmethyl)-2-acetamidomalonate | N1=CC=C(C=C1)CC(C(=O)OCC)(C(=O)OCC)NC(C)=O | C15H20N2O5
